US07115643B2
10 g (27 mmol) of (2R,3R)-3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-[1,2,4]-triazol-1-yl-butyric acid (oxalate salt) were dissolved in 200 ml of tetrahydrofuran and after addition of 5.8 g (35 mmol) 1,1′-carbonyldiimidazole stirred at 60° C. for 3 hours. After evaporation of the solvent the reaction mixture was poured onto 300 ml of aqueous 0.5N-HCl and extracted 3 times with each 300 ml of ethyl acetate. The extract was dried over Na2SO4 and evaporated. 7.1 g (94% yield) of (3R,4R)-4-(2,5-difluoro-phenyl)-3-methyl-4-[1,2,4]triazol-1-ylmethyl-oxetan-2-one resulted.

reactant | (2R,3R)-3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-[1,2,4]-triazol-1-yl-butyric acid | 27 mmol, 10 g | FC1=C(C=C(C=C1)F)[C@]([C@H](C(=O)O)C)(CN1N=CN=C1)O | C13H13F2N3O3
reactant | 1,1′-carbonyldiimidazole | 35 mmol, 5.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (3R,4R)-4-(2,5-difluoro-phenyl)-3-methyl-4-[1,2,4]triazol-1-ylmethyl-oxetan-2-one | 7.1 g, 94% yield | FC1=C(C=C(C=C1)F)[C@]1([C@H](C(O1)=O)C)CN1N=CN=C1 | C13H11F2N3O2
